US07745449B2
Synthesis of N-cyclopropyl-4-methyl-3-(7-(3-oxopiperazin-1-yl)thieno[2,3-d]pyridazin-2-yl)benzamide
The title compound was prepared by a method similar to that described in Example 2. 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide (100 mg, 291 μmol), piperazin-2-one (44 mg, 436 μmol) and N,N-diisopropylethylamine (152 μl, 873 μmol) were combined in NMP (2 ml) and heated to 180° C. for 18 hrs. The mixture was cooled to RT, diluted with H2O and filtered. The solids were washed with H2O and air-dried. Both the solid and solution were collected, dissolved in DMSO and purified with reverse-phase chromatography (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mm, 20 ml/min, 10-95% CH3CN/H2O, 0.1% TFA, 10.5 min gradient). The residue was purified with reverse-phase chromatography (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mm, 20 ml/min, 10-95% CH3CN/H2O, 0.1% TFA, 10.5 min gradient) to afford the title compound. MS (ESI, pos. ion) m/z: 408 (M+1).

reactant | 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide | 291 μmol, 100 mg | ClC=1N=NC=C2C1SC(=C2)C=2C=C(C(=O)NC1CC1)C=CC2C | C17H14ClN3OS
reactant | piperazin-2-one | 436 μmol, 44 mg | N1C(CNCC1)=O | C4H8N2O
reactant | N,N-diisopropylethylamine | 873 μmol, 152 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
solvent | H2O | O | H2O
product | N-cyclopropyl-4-methyl-3-(7-(3-oxopiperazin-1-yl)thieno[2,3-d]pyridazin-2-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC=2C(=C(N=NC2)N2CC(NCC2)=O)S1)=O | C21H21N5O2S
